US05547972
A mixture of N-[3-(2-phenylimidazol-1-yl)propyl]phthalimide (17.0 g), sodium hydroxide (1.1 g) and water (5.4 ml) was heated at 95° C. for 48 hours. On cooling, a mixture of concentrated hydrochloric acid (66 ml) and water (13 ml) was added and the mixture boiled under reflux for 6 hours. After standing at ambient temperature for 16 hours, the mixture was filtered and the filtrate evaporated to dryness under reduced pressure. The residue was treated with water (16 ml) then cooled and sodium hydroxide (24 g) added in portions. The solution was extracted with diethyl ether and then with dichloromethane. The combined organic extracts were dried and evaporated to give an oil which was distilled under reduced pressure to give 3-(2-phenylimidazol-1-yl)propylamine, b.p. 128° C. (0.05 mmHg).

reactant | N-[3-(2-phenylimidazol-1-yl)propyl]phthalimide | 17.0 g | C1(=CC=CC=C1)C=1N(C=CN1)CCCN1C(C=2C(C1=O)=CC=CC2)=O | C20H17N3O2
reactant | sodium hydroxide | 1.1 g | [OH-].[Na+]
reactant | hydrochloric acid | 66 ml | Cl | ClH
solvent | water | 13 ml | O | H2O
solvent | water | 5.4 ml | O | H2O
product | 3-(2-phenylimidazol-1-yl)propylamine | C1(=CC=CC=C1)C=1N(C=CN1)CCCN | C12H15N3
